US09108957B2
To a solution of 4-(4-methoxy-benzyl)-2-methyl-[1,4]oxazepane (1.66 g, 7.05 mmol) in 1,2-dichloroethane (12 ml) was added 1-chloroethyl chloroformate (2.52 g, 17.6 mmol) at room temperature. The mixture was refluxed for 5 hours and cooled to room temperature. After the addition of methanol (15 ml), the mixture was refluxed for 3 hours and concentrated in vacuo to afford the crude product. This crude product was partitioned between ether and 1N hydrochloric acid, and washed with ether. The water phase was basified with saturated aqueous sodium hydrogen carbonate. The product was extracted with dichloromethane. The organic layer was dried over sodium sulfate and the solvent was removed under reduced pressure carefully to avoid evaporating the product. To the resulting solution was added 4N hydrochloric acid in ethyl acetate. The solution was concentrated in vacuo to afford 2-methyl-[1,4]oxazepane hydrochloride as pale yellow oil (964 mg, 90%).

reactant | 4-(4-methoxy-benzyl)-2-methyl-[1,4]oxazepane | 7.05 mmol, 1.66 g | COC1=CC=C(CN2CC(OCCC2)C)C=C1 | C14H21NO2
reactant | 1-chloroethyl chloroformate | 17.6 mmol, 2.52 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | methanol | 15 ml | CO | CH4O
solvent | 1,2-dichloroethane | 12 ml | ClCCCl | C2H4Cl2
product | 2-methyl-[1,4]oxazepane hydrochloride | 964 mg, 90% | Cl.CC1OCCCNC1 | InChI=1S/C6H13NO.ClH/c1-6-5-7-3-2-4-8-6;/h6-7H,2-5H2,1H3;1H
